* Arm A oscillator 11: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 11: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.6223
Cg0 i1_A 0 1.085500e-16
Cg1 nand_Y 0 1.085500e-16
Cc0 i1_A i29_A 0.000000e+00
Cc1 i1_A i2_A 1.876180e-17
Cc2 i1_A i30_A 0.000000e+00
Rn1_1 i1_Y i2_A 33.4437
Cg2 i2_A 0 3.858870e-16
Cg3 i1_Y 0 3.858870e-16
Cx0 i2_A 0 5.354230e-17
Cx1 i2_A 0 1.547620e-16
Rn10_2 i10_Y i11_A 29.8098
Cg4 i11_A 0 1.426330e-16
Cg5 i10_Y 0 1.426330e-16
Cx2 i11_A 0 0.000000e+00
Cx3 i11_A 0 1.264390e-16
Cx4 i11_A 0 4.181340e-18
Rn11_3 i11_Y i12_A 20.4795
Cg6 i12_A 0 1.063430e-16
Cg7 i11_Y 0 1.063430e-16
Rn12_4 i12_Y i13_A 19.4973
Cg8 i13_A 0 5.353250e-17
Cg9 i12_Y 0 5.353250e-17
Rn13_5 i13_Y i14_A 19.4973
Cg10 i14_A 0 5.353250e-17
Cg11 i13_Y 0 5.353250e-17
Rn14_6 i14_Y i15_A 19.4973
Cg12 i15_A 0 5.438390e-17
Cg13 i14_Y 0 5.438390e-17
Rn15_7 i15_Y s1260_12 20.5768
Rn15_8 s1260_12 i16_A 11.2509
Rn15_9 s1260_12 buf_A 9.3000
Cg14 buf_A 0 0.000000e+00
Cg15 i16_A 0 1.091830e-16
Cg16 i15_Y 0 1.504170e-16
Cg17 s1260_12 0 2.596000e-16
Cc3 i16_A i17_A 5.423730e-17
Rn16_10 i16_Y i17_A 20.8277
Cg18 i17_A 0 1.112050e-16
Cg19 i16_Y 0 1.112050e-16
Cc4 i17_A i18_A 2.888000e-17
Rn17_11 i17_Y i18_A 21.1313
Cg20 i18_A 0 1.317830e-16
Cg21 i17_Y 0 1.317830e-16
Cc5 i18_A i19_A 1.903430e-17
Rn18_12 i18_Y i19_A 29.8098
Cg22 i19_A 0 1.196090e-16
Cg23 i18_Y 0 1.196090e-16
Cx5 i19_A 0 6.145940e-17
Cx6 i19_A 0 6.985530e-18
Cx7 i19_A 0 2.354100e-17
Rn19_13 i19_Y i20_A 20.3545
Cg24 i20_A 0 5.170700e-17
Cg25 i19_Y 0 5.170700e-17
Cc6 i20_A i22_A 1.170910e-17
Cc7 i20_A i24_A 0.000000e+00
Cx8 i20_A 0 8.435350e-17
Cx9 i20_A 0 5.305020e-17
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 6.167360e-17
Cg27 i2_Y 0 6.167360e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 1.569200e-17
Cg29 i20_Y 0 1.569200e-17
Cc8 i21_A i22_A 2.971260e-17
Cx10 i21_A 0 2.390600e-17
Cx11 i21_A 0 9.479740e-17
Rn21_16 i21_Y i22_A 33.7205
Cg30 i22_A 0 3.045410e-16
Cg31 i21_Y 0 3.045410e-16
Cx12 i22_A 0 1.531550e-16
Cx13 i22_A 0 0.000000e+00
Cx14 i22_A 0 6.877800e-17
Cx15 i22_A 0 2.649370e-17
Rn22_17 i22_Y i23_A 31.3902
Cg32 i23_A 0 1.989920e-16
Cg33 i22_Y 0 1.989920e-16
Cc9 i23_A i24_A 2.808530e-17
Cx16 i23_A 0 0.000000e+00
Cx17 i23_A 0 1.605630e-16
Cx18 i23_A 0 1.127770e-16
Cx19 i23_A 0 1.625390e-17
Cx20 i23_A 0 7.836590e-17
Cx21 i23_A 0 3.000230e-17
Rn23_18 i23_Y i24_A 21.3098
Cg34 i24_A 0 7.427530e-17
Cg35 i23_Y 0 7.427530e-17
Cc10 i24_A i25_A 5.476610e-17
Cx22 i24_A 0 6.328520e-17
Cx23 i24_A 0 1.641420e-16
Rn24_19 i24_Y i25_A 20.8277
Cg36 i25_A 0 8.050710e-17
Cg37 i24_Y 0 8.050710e-17
Cc11 i25_A i26_A 4.795560e-17
Cx24 i25_A 0 8.560740e-17
Rn25_20 i25_Y i26_A 21.5420
Cg38 i26_A 0 1.296170e-16
Cg39 i25_Y 0 1.296170e-16
Cx25 i26_A 0 1.323940e-16
Rn26_21 i26_Y i27_A 30.2652
Cg40 i27_A 0 1.387370e-16
Cg41 i26_Y 0 1.387370e-16
Cc12 i27_A i28_A 2.990610e-17
Cx26 i27_A 0 1.264390e-16
Cx27 i27_A 0 0.000000e+00
Cx28 i27_A 0 7.713030e-17
Rn27_22 i27_Y i28_A 20.8277
Cg42 i28_A 0 1.150300e-16
Cg43 i27_Y 0 1.150300e-16
Cc13 i28_A i29_A 2.629080e-17
Cc14 i28_A i30_A 0.000000e+00
Rn28_23 i28_Y i29_A 21.0732
Cg44 i29_A 0 1.804990e-16
Cg45 i28_Y 0 1.804990e-16
Cc15 i29_A i30_A 2.113720e-17
Rn29_24 i29_Y i30_A 33.9170
Cg46 i30_A 0 3.098300e-16
Cg47 i29_Y 0 3.098300e-16
Cc16 i30_A nand_B 4.111750e-17
Cx29 i30_A 0 1.173780e-16
Cx30 i30_A 0 3.674520e-17
Cx31 i30_A 0 2.063480e-16
Rn3_25 i3_Y i4_A 31.4973
Cg48 i4_A 0 1.730650e-16
Cg49 i3_Y 0 1.730650e-16
Cc17 i4_A i5_A 1.271940e-16
Cx32 i4_A 0 4.798420e-17
Cx33 i4_A 0 6.424500e-17
Cx34 i4_A 0 0.000000e+00
Rn30_26 i30_Y nand_B 29.9839
Cg50 nand_B 0 1.247550e-16
Cg51 i30_Y 0 1.247550e-16
Cx35 nand_B 0 0.000000e+00
Cx36 nand_B 0 1.281460e-16
Rn4_27 i4_Y i5_A 31.3455
Cg52 i5_A 0 1.729620e-16
Cg53 i4_Y 0 1.729620e-16
Cc18 i5_A i6_A 1.668560e-17
Cx37 i5_A 0 0.000000e+00
Cx38 i5_A 0 1.407970e-17
Cx39 i5_A 0 5.037870e-17
Rn5_28 i5_Y i6_A 31.4973
Cg54 i6_A 0 2.469140e-16
Cg55 i5_Y 0 2.469140e-16
Cx40 i6_A 0 1.193930e-17
Cx41 i6_A 0 4.350480e-17
Cx42 i6_A 0 1.281460e-16
Rn6_29 i6_Y i7_A 19.4973
Cg56 i7_A 0 4.789670e-17
Cg57 i6_Y 0 4.789670e-17
Cx43 i7_A 0 3.279430e-17
Rn7_30 i7_Y i8_A 20.3188
Cg58 i8_A 0 8.224160e-17
Cg59 i7_Y 0 8.224160e-17
Cx44 i8_A 0 6.766480e-17
Rn8_31 i8_Y i9_A 19.4973
Cg60 i9_A 0 4.789670e-17
Cg61 i8_Y 0 4.789670e-17
Cx45 i9_A 0 3.279430e-17
Rn9_32 i9_Y i10_A 19.4973
Cg62 i10_A 0 3.751800e-17
Cg63 i9_Y 0 3.751800e-17
Cx46 i10_A 0 3.809220e-17
Rout_33 buf_X s1285_20 49.1214
Cg64 buf_X 0 1.650010e-15
Cg65 s1285_20 0 2.141010e-15
Cx47 s1285_20 0 1.126640e-16
Cx48 s1285_20 0 1.054040e-16
Cx49 s1285_20 0 9.984740e-17
Cx50 s1285_20 0 3.000230e-17
Cx51 s1285_20 0 9.572150e-17
Cx52 s1285_20 0 1.669550e-17
Cx53 s1285_20 0 8.025930e-17
Cx54 s1285_20 0 1.508870e-16
Cx55 s1285_20 0 4.138860e-16
Cx56 s1285_20 0 0.000000e+00
Cx57 s1285_20 0 5.130750e-17
Cx58 s1285_20 0 1.987050e-16
Cx59 s1285_20 0 4.489340e-16

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
